US05034393
4-[2-[4-(t-butyl)phenyl]ethoxy]pyrido[2,3-d]pyrimidine
A mixture consisting of 1.86 g (0.011 mole) of 4-chloropyrido-[2,3-d]pyrimidine, 2.0 g (0.011 mole) of 2-[4-(t-butyl)phenyl]ethanol, and 40 mL of toluene containing a little HCl gas was stirred at room temperature. The mixture was then cooled, and a yellow solid was collected. This was washed with hexane, then partitioned between 1N NaOH and CH2Cl2. The CH2Cl2 layer was dried over MgSO4, then the solvent was removed under vacuum to leave a yellow solid, which was recrystallized from hexane. Yield 2.5 g. M.P. 77-79° C.

reactant | 4-chloropyrido-[2,3-d]pyrimidine | 0.011 mole, 1.86 g | ClC=1C2=C(N=CN1)N=CC=C2 | C7H4ClN3
reactant | 2-[4-(t-butyl)phenyl]ethanol | 0.011 mole, 2.0 g | C(C)(C)(C)C1=CC=C(C=C1)CCO | C12H18O
reactant | HCl | Cl | ClH
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[2-[4-(t-butyl)phenyl]ethoxy]pyrido[2,3-d]pyrimidine | C(C)(C)(C)C1=CC=C(C=C1)CCOC=1C2=C(N=CN1)N=CC=C2 | C19H21N3O
